US06114568
E) 1-{(2-Ethoxycarbonylethyl)-[4-(4-fluorophenoxy)benzenesulfonyl]-amino}-cyclopentanecarboxylic Acid
A solution of 3.0 g (4.5 mmol) of 1-{(2-ethoxycarbonylethyl)-[4-(4-fluorophenoxy)benzenesulfonyl]amino}cyclopentanecarboxylic acid, dicyclohexylaminium salt in 30 mL of dichloromethane was treated with 30 mL of 2N hydrochloric acid at ambient temperature causing immediate precipitation of solids. This mixture was stirred at ambient temperature for three hours. The solids were filtered, the aqueous phase was extracted with dichloromethane, and the combined organic phases were washed with water, dried over sodium sulfate, and concentrated under vacuum to 2.2 g (100%) of 1-{(2-ethoxycarbonylethyl)-[4-(4-fluorophenoxy)benzenesulfonyl]amino}cyclopentanecarboxylic acid as a clear oil.

reactant | 1-{(2-ethoxycarbonylethyl)-[4-(4-fluorophenoxy)benzenesulfonyl]amino}cyclopentanecarboxylic acid, dicyclohexylaminium salt | 4.5 mmol, 3.0 g | C1(CCCCC1)[NH2+]C1CCCCC1.C(C)OC(=O)CCN(C1(CCCC1)C(=O)[O-])S(=O)(=O)C1=CC=C(C=C1)OC1=CC=C(C=C1)F
reactant | hydrochloric acid | 2N, 30 mL | Cl | ClH
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 1-{(2-Ethoxycarbonylethyl)-[4-(4-fluorophenoxy)benzenesulfonyl]-amino}-cyclopentanecarboxylic Acid | C(C)OC(=O)CCN(C1(CCCC1)C(=O)O)S(=O)(=O)C1=CC=C(C=C1)OC1=CC=C(C=C1)F | C23H26FNO7S
